US09079866B2
5-{4-[2-(Cyclopentyloxy)pyridin-3-yl]-2-fluorophenyl}pyrazin-2-amine
The title compound was prepared using methods analogous to those described in Example 369 using (2-(cyclopentyloxy)pyridin-3-yl)boronic acid and 5-(4-bromo-2-fluorophenyl)pyrazin-2-amine in Step B. MS (ESI): mass calcd. for C20H19FN4O, 350.15; m/z found, 351.1 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.62-8.58 (m, 1H), 8.19-8.15 (m, 1H), 8.12 (d, J=1.5, 1H), 8.00-7.90 (m, 1H), 7.69-7.63 (m, 1H), 7.48-7.40 (m, 2H), 6.98-6.92 (m, 1H), 5.59-5.50 (m, 1H), 4.68 (s, 2H), 2.03-1.89 (m, 2H), 1.89-1.70 (m, 4H), 1.71-1.55 (m, 2H).

reactant | (2-(cyclopentyloxy)pyridin-3-yl)boronic acid | C1(CCCC1)OC1=NC=CC=C1B(O)O | C10H14BNO3
reactant | 5-(4-bromo-2-fluorophenyl)pyrazin-2-amine | BrC1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C10H7BrFN3
product | 5-{4-[2-(Cyclopentyloxy)pyridin-3-yl]-2-fluorophenyl}pyrazin-2-amine | C1(CCCC1)OC1=NC=CC=C1C1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C20H19FN4O
